US07323472B2
A solution of 18-crown-6 (422 mg, 1.6 mmol, 5 eq) and bis(2,2,2-trifluoroethyl) (methoxycarbonylmethyl)phosphonate (81 uL, 0.38 mmol, 1.2 eq) in anhyd THF (20 mL) was cooled to −78°, potassium bis(trimethylsilyl)amide (0.96 mL, 0.48 mmol, 1.5 eq) as a 0.5 mol solution in toluene was added. This solution was stirred for additional 30 min at −78° and 4-amino-6-(2-fluoro-phenyl)-2-methylsulfanyl-pyrimidine-5-carbaldehyde (85 mg, 0.32 mmol) in dry THF (1 mL) was added dropwise. The reaction mixture was then stirred for 8 h at −78° and warmed to 23°, and stirred 16 h. Saturated aq NH4Cl (5 mL), followed by Et2O (20 mL), was added. The layers were separated. The organic layer was washed with satd aq NaCl, dried (MgSO4), filtered and solvent was evaporated. The yellow residue was purified by Flash chromatography to afford 100 mg (91% yield) of 4-(2-fluoro-phenyl)-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one. 1H-NMR δ 2.62 (s, 3H), 6.55 (d, 1H, J=9.9 Hz), 7.26 (m, 3H), 7.52 (m, 2H), 8.99 (br s, 1H). LC MS (m/e)=288 (MH+). Rt=1.75 min.

reactant | 18-crown-6 | 1.6 mmol, 422 mg, 5 eq | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | bis(2,2,2-trifluoroethyl) (methoxycarbonylmethyl)phosphonate | 0.38 mmol, 81 uL, 1.2 eq | COC(=O)CP(OCC(F)(F)F)(OCC(F)(F)F)=O | C7H9F6O5P
reactant | potassium bis(trimethylsilyl)amide | 0.48 mmol, 0.96 mL, 1.5 eq | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 4-amino-6-(2-fluoro-phenyl)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | 0.32 mmol, 85 mg | NC1=NC(=NC(=C1C=O)C1=C(C=CC=C1)F)SC | C12H10FN3OS
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | Et2O | 20 mL | CCOCC | C4H10O
product | 4-(2-fluoro-phenyl)-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | 100 mg, 91% yield | FC1=C(C=CC=C1)C=1C2=C(N=C(N1)SC)NC(C=C2)=O | C14H10FN3OS
